US08487094B2
A solution of (R)-6-allyl-3-((R)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one (334 mg, 0.80 mmol) in dry CH2Cl2 (20 mL) was treated with ozone at −78° C. until the reaction mixture became blue. Then the mixture was flushed with oxygen to remove excess ozone. To the above mixture was added NaBH4 (273 mg, 7 mmol) at 0° C. and the reaction mixture was stirred for 4 hrs at ambient temperature under nitrogen. The reaction mixture was washed with water and then extract with CH2Cl2 twice. The combined organic phases were dried over NaSO4, filtered and concentrated to give the residue, which was purified by preparative HPLC to afford (S)-3-((R)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(2-hydroxyethyl)-1,3-oxazinan-2-one (118 mg, 35%). 1H NMR (CD3OD): 1.50 (m, 3H), 2.12 (m, 2H), 2.29 (m, 2H), 2.50 (m, 1H), 3.10 (m, 1H), 3.33 (m, 1H), 3.68 (m, 1H), 4.56 (m, 1H), 5.50 (m, 1H), 6.86 (m, 2H), 7.10 (m, 2H), 7.30 (m, 4H).

reactant | (R)-6-allyl-3-((R)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-1,3-oxazinan-2-one | 0.80 mmol, 334 mg | C(C=C)[C@@]1(CCN(C(O1)=O)[C@H](C)C1=CC=C(C=C1)Br)C1=CC=C(C=C1)F | C21H21BrFNO2
reactant | ozone | O=[O+][O-] | O3
reactant | NaBH4 | 7 mmol, 273 mg | [BH4-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-((R)-1-(4-bromophenyl)ethyl)-6-(4-fluorophenyl)-6-(2-hydroxyethyl)-1,3-oxazinan-2-one | 118 mg, 35% | BrC1=CC=C(C=C1)[C@@H](C)N1C(O[C@@](CC1)(CCO)C1=CC=C(C=C1)F)=O | C20H21BrFNO3
